US09062070B2
A mixture of 4-bromo-3-methylthiophene-2-carbonitrile (3.00 g, 14.8 mmol), potassium vinyltrifluoroborate (2.40 g, 17.8 mmol) and Pd(dppf)Cl2 (0.5 g) in 30 mL of EtOH and 30 mL of TEA was refluxed under Ar for 4 hours. The reaction mixture was concentrated, and the residue was purified by column chromatography (petrol ether: EtOAc=50:1) to afford 4-ethenyl-3-methylthiophene-2-carbonitrile.

reactant | 4-bromo-3-methylthiophene-2-carbonitrile | 14.8 mmol, 3.00 g | BrC=1C(=C(SC1)C#N)C | C6H4BrNS
reactant | potassium vinyltrifluoroborate | 17.8 mmol, 2.40 g | C(=C)[B-](F)(F)F.[K+]
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd(dppf)Cl2 | 0.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-ethenyl-3-methylthiophene-2-carbonitrile | C(=C)C=1C(=C(SC1)C#N)C | C8H7NS
